US05382590
The procedure is analogous to that described in Example 106, but 2.0 g of 2-amino-N-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolyl)ethyl]-N-phenylacetamide and 0.8 g of 3-methylphenyl isocyanate are used as the starting material. The crude product is purified by chromatography on 70 g of silica (0.065-0.200 mm) contained in a column 2.5 cm in diameter [eluent: methylene chloride/methanol (98-2 by volume)], collecting 20 cm3 fractions. Fractions 12 to 26 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from ethyl acetate, 1.0 g of 2-[3-(3-methylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolyl)ethyl]-N-phenylacetamide melting at 135° C is obtained.

reactant | 2-amino-N-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolyl)ethyl]-N-phenylacetamide | 2.0 g | NCC(=O)N(C1=CC=CC=C1)CC(N1CC2=CC=CC=C2CC1)=O | C19H21N3O2
reactant | 3-methylphenyl isocyanate | 0.8 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 2-[3-(3-methylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolyl)ethyl]-N-phenylacetamide | 1.0 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(N1CC2=CC=CC=C2CC1)=O)=O | C27H28N4O3
